US05840732
ii) Synthesis of 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione dihydrochloride
To a methanol solution of 1.56 g (3.6 mmol) of 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione, 1.5 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was dissolved in methanol and recrystallized from ether to yield 1.38 g (75.0%, white crystal) of the desired product.

reactant | 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 3.6 mmol, 1.56 g | N1=CC(=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C22H22N4O2S2
reactant | hydrochloric acid ethyl acetate | 4N, 1.5 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione dihydrochloride | Cl.Cl.N1=CC(=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C22H22N4O2S2.2ClH/c27-21-18(8-3-6-17-7-5-11-23-16-17)30-22(28)26(21)13-1-2-15-29-20-10-4-9-19-24-12-14-25(19)20;;/h4-5,7-12,14,16H,1-3,6,13,15H2;2*1H
